US09079902B2
3-(2-chloro-4-(trifluoromethyl)phenyl)-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide (0.020 g, 0.032 mmol) was dissolved in 0.5 mL of DCM, and TFA (0.5 ml, 6.49 mmol) was added. The reaction was stirred for 15 minutes. The reaction was concentrated, dissolved in acetonitrile, and passed through a PEAX ion exchange column. The column was flushed several times with acetonitrile, then the product was liberated by flushing several times with an 1M HCl solution in 15% MeOH/EtOAc. The solution was concentrated to afford 3-(2-chloro-4-(trifluoromethyl)phenyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide (0.016 g) as a tan solid. (M+H)+. 1H NMR (400 MHz, DMSO-d6) δ=8.43 (s, 7 H), 8.03 (s, 1 H), 8.01-7.97 (m, 2 H), 7.79 (d, J=1.1 Hz, 2 H), 7.67 (d, J=8.6 Hz, 4 H), 7.55 (dd, J=1.7, 8.5 Hz, 1 H), 3.98 (s, 3 H). m/z (ESI) 473.1 (M+H)+.

reactant | 3-(2-chloro-4-(trifluoromethyl)phenyl)-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | 0.032 mmol, 0.020 g | ClC1=C(C=CC(=C1)C(F)(F)F)C1=CN(C2=CC(=CC=C12)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC)C | C27H22ClF3N4O4S2
reactant | TFA | 6.49 mmol, 0.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-chloro-4-(trifluoromethyl)phenyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | 0.016 g | ClC1=C(C=CC(=C1)C(F)(F)F)C1=CN(C2=CC(=CC=C12)S(=O)(=O)NC1=NC=NS1)C | C18H12ClF3N4O2S2
